US04520134
Ten g (0.066 moles) of N-isopropyl-p-hydroxyaniline was dissolved in 50 ml acetic acid and to this mixture was added 13.5 g (0.132 moles) of acetic anhydride. This reaction was heated to 50° C. for 5 hours, then poured over crushed ice. Sodium carbonate was added until the pH was approximately 8.5, then the solution was extracted with chloroform, dried over anhydrous magnesium sulfate, and evaporated to dryness giving an oil which immediately was placed into 10% sodium hydroxide and warmed to 70° C. for 5 hours. Upon cooling, the mixture was extracted with chloroform, then made acidic with 10% HCl until the pH of the solution was 2-3. The solution was then extracted with chloroform, dried over anhydrous magnesium sulfate, and evaporated to dryness giving 7.6 g (60%) of N-isopropyl-4'-hydroxy-acetanilide as a white solid that was recrystallized from water, m.p. 152°-153° C. I.R. 3300-3200 cm-1 (--OH) and 1660 cm-1 (amide carbonyl). The sodium salt of this compound was prepared by reacting an equal molar quantity thereof with sodium hydroxide in water. The water was evaporated to dryness leaving the sodium salt as a solid which was dried further, m.p. 52°-54° C.

reactant | N-isopropyl-p-hydroxyaniline | 0.066 moles | C(C)(C)NC1=CC=C(C=C1)O | C9H13NO
reactant | acetic anhydride | 0.132 moles, 13.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-isopropyl-4'-hydroxy-acetanilide | 7.6 g, 60% | C(C)(C)N(C1=CC=C(C=C1)O)C(C)=O | C11H15NO2
